US07384789B2
0.500 g (2.52 mmol) of compound 2,6-dinitroanisole was suspended in 40 mL of water together with 2.310 g (35.3 mmol) of Zn and 0.530 g (10.1 mmol) of NH4Cl. The solution was boiled for 2.5 h. After cooling to room temperature, the solution was extracted with ethyl acetate. The organic solution was dried with anhydrous Na2SO4 and distilled in vacuo to obtain 0.330 g (95%) of clean 2,6-diaminoanisole as a red oil. 1H NMR (CDCl3) δ 6.73 (t, J=7.9 Hz, 1H, Ar—H), 6.19 (d, J=7.9 Hz, 2H, Ar—H), 3.78 (s, 3H, O—CH3), 3.73 (br. s, 4H, Ar—NH2). 13C NMR (CDCl3) δ 140.3, 134.9, 125.2, 106.6, 58.6.

reactant | 2,6-dinitroanisole | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])OC | C7H6N2O5
reactant | NH4Cl | 10.1 mmol, 0.530 g | [NH4+].[Cl-]
solvent | water | 40 mL | O | H2O
catalyst | Zn | 35.3 mmol, 2.310 g | [Zn] | Zn
product | 2,6-diaminoanisole | 0.330 g, 95% | NC1=C(C(=CC=C1)N)OC | C7H10N2O
